US08486979B2
Pyrimidine-5-carboxamide
A solution of ethyl pyrimidine-5-carboxylate (6.10 g, 40.0 mmol) in methanol (40 mL) was stirred with ammonium hydroxide (4.30 mL, 110 mmol) in a sealed tube at 50° C. for 10 hours. The reaction mixture was then concentrated and the residue was stirred in ethanol/ethyl acetate (v/v 1/4, 50 mL) at ambient temperature for 2 hours. The white precipitate was collected by filtration and dried to give the titled compound. 1H NMR (300 MHz, DMSO-d6) δ 7.85 [s (broad), 1 H], 8.33 [s (broad), 1 H], 9.18 (s, 2 H), 9.32 (s, 1 H) ppm; MS (DCI/NH3) m/z 124 (M+H)+, 141 (M+NH4)+.

reactant | ethyl pyrimidine-5-carboxylate | 40.0 mmol, 6.10 g | N1=CN=CC(=C1)C(=O)OCC | C7H8N2O2
reactant | ammonium hydroxide | 110 mmol, 4.30 mL | [OH-].[NH4+]
solvent | methanol | 40 mL | CO | CH4O
product | Pyrimidine-5-carboxamide | N1=CN=CC(=C1)C(=O)N | C5H5N3O
